US06670372B2
Using the general method of Example 1 Part 2-[2-(methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol (2.53 g, 9.33 mmol) was reacted with propargyl bromide (80% in toluene, 3.11 mL, 27.9 mmol) to provide 2.72 g of 2-(methoxyethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as an oil.

reactant | 2-[2-(methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol | 9.33 mmol, 2.53 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C15H17N3O2
reactant | propargyl bromide | 27.9 mmol, 3.11 mL | C(C#C)Br | C3H3Br
product | 2-(methoxyethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 2.72 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C18H19N3O2
